### PR TITLE
reply remove tcb corres

### PR DESCRIPTION
**Pull request by mktnk3**
This adds the proof of new `reply_remove_tcb_corres` lemma, and all the other lemmas it needs.

Lemmas are roughly grouped as:
- `sr_inv_ul` (mostly reviewed in #160 )
- various `heap_path` and `sym_heap` lemmas (some were in #158 )
- concrete version `sc_with_reply’` and cross lemmas for it
- `cleanReply` lemmas
- various wp rules, for `sc_with_reply’` and others
- a bunch of corres rules for modifying the reply queue
- and others 

There are a few lemmas that are tweaks of existing lemmas in AInvs. These could replace the originals most of the time but that requires fixing AInvs, which I will do separately. Also, most of what’s added in IpcCancel_R could go into Reply_R, but that requires moving `reply_unlink_tcb_corres` and its dependencies first, which again I defer for now.

This altogether is about 2000 lines of new proof, and that’s just for one corres rule for a new function for MCS.

### CODE REVIEW

File: proof/refine/ARM/Invariants_H.thy [hunk 1]
```diff
@@ -4042,4 +4047,126 @@ lemma valid_replies'_lift:
...
+  apply (case_tac "np \<in> set xs")
+   apply (drule (4) heap_ls_next_takeWhile_append_sym)
+   apply simp
+  apply (drule takeWhile_neq_notin_same, simp)
+  apply (drule (1) heap_path_end_unique, simp)
+  done
+
+(* more on heap_path : end *)
+
+(* sym_heap *)
```
Comment (mktnk3) [inline proof/refine/ARM/Invariants_H.thy:4104]: This sym_heap block is moved from Reply_R (merged as #158 )

File: proof/refine/ARM/IpcCancel_R.thy [hunk 2]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+   \<Longrightarrow> sr_inv P P' (updateReply rp f)"
+  unfolding sr_inv_def updateReply_def setReply_def getReply_def
+  apply (clarsimp simp: setReply_def getReply_def getObject_def setObject_def projectKOs
+                        updateObject_default_def loadObject_default_def split_def
+                        in_monad return_def fail_def objBits_simps' in_magnitude_check
+                 split: if_split_asm option.split_asm)
+  apply (rename_tac reply')
+  apply (prop_tac "ko_at' reply' rp s'")
+   apply (clarsimp simp: obj_at'_def objBits_simps' projectKOs)
+  apply (drule_tac x=s and y=s' in spec2)+
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:654]: I'm not sure whether you'd prefer doing this `drule_tac`, but if you delete this line, a few others will break, but the proof still works

File: proof/refine/ARM/IpcCancel_R.thy [hunk 3]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+              simp del: fun_upd_def)
+  done
+
+lemma updateReply_sr_inv_prev:
+  "sr_inv ((\<lambda>s. sc_with_reply rp s = None) and valid_replies)
+           (reply_at' rp) (updateReply rp (replyPrev_update (\<lambda>_. Nothing)))"
+  apply (rule updateReply_sr_inv)
+   apply (clarsimp simp: reply_relation_def)
+  apply clarsimp
+  by (erule (4) sc_replies_relation_sc_with_reply_None[where rp=rp and f="(replyPrev_update (\<lambda>_. Nothing))", simplified])
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:678]: Could you reformat this so we can see what the instantiation is on a new line?

File: proof/refine/ARM/IpcCancel_R.thy [hunk 4]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+         (setSchedContext ptr (f' sc'))"
+  proof -
+  have x: "updateObject (f' sc') = updateObject_default (f' sc')" by clarsimp
+  have z: "\<And>s. sc_at' ptr s
+               \<Longrightarrow> map_to_ctes ((ksPSpace s) (ptr \<mapsto> injectKO (f' sc'))) = map_to_ctes (ksPSpace s)"
+    by (clarsimp simp: obj_at_simps)
+  have P: "\<And>(v::'a::pspace_storable). (1 :: word32) < 2 ^ (objBits v)"
+    by (clarsimp simp: obj_at_simps objBits_defs pteBits_def pdeBits_def scBits_pos_power2
+                split: kernel_object.splits arch_kernel_object.splits)
+  assume h : "\<forall> hp. sc_replies_relation_obj (f sc) (f' sc') hp"
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:753]: Seeing that you introduce the assumptions you have in the lemma here again, it would be nicer to just use `assumes... shows` for the statement of the lemma

File: proof/refine/ARM/IpcCancel_R.thy [hunk 5]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+   apply wpsimp
+  apply (clarsimp intro!: updateReply_sr_inv_next[simplified])
+  done
+
+(* reply_remove_tcb related corres rules *)
+
+context begin interpretation Arch .
+
+(* setting scheduling contexts with sc_replies update *)
+lemma setSchedContext_sc_replies_relation_corres:
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:737]: Could this be moved to KHeap_R, and could the existing `corres` rules for `setSchedContext` be derived from this? These proofs are nasty and the more reuse we have, the better

File: proof/refine/ARM/IpcCancel_R.thy [hunk 6]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+          od)"
+  apply (rule_tac Q="sc_at' ptr" in corres_cross_add_guard)
+   apply (fastforce dest!: state_relationD simp: obj_at_def is_sc_obj_def vs_heap_simps
+                    elim!: sc_at_cross valid_objs_valid_sched_context_size)
+  apply (rule corres_symb_exec_r)
+     apply (rule_tac P'="ko_at' sc' ptr" in corres_inst)
+     apply (rule_tac Q="sc_obj_at (objBits sc' - minSchedContextBits) ptr" in corres_cross_add_abs_guard)
+      apply (fastforce dest!: state_relationD ko_at'_cross)
+     apply (rule corres_guard_imp)
+       apply (rule_tac P="(\<lambda>s. (sc_replies_of s |> hd_opt) ptr = Some rp) and sc_obj_at (objBits sc' - minSchedContextBits) ptr"
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:838]: This line and the similar one below run past the thin blue line

File: proof/refine/ARM/IpcCancel_R.thy [hunk 7]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+            apply (rule_tac n="objBits sc' - minSchedContextBits" in setSchedContext_sc_replies_relation_corres)
+              apply (clarsimp simp: sc_relation_def)
+             apply clarsimp
+            apply (clarsimp simp: objBits_simps)
+           apply simp
+          apply simp
+         apply (wpsimp wp: get_sched_context_exs_valid simp: is_sc_obj_def obj_at_def)
+          apply (rename_tac ko xs; case_tac ko; clarsimp)
+         apply simp
+        apply (wpsimp simp: obj_at_def is_sc_obj_def vs_heap_simps)+
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:856]: Plus isn't needed here

File: proof/refine/ARM/IpcCancel_R.thy [hunk 8]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+      apply (clarsimp simp: obj_at_def is_sc_obj_def)
+     apply simp
+    apply wpsimp+
+  done
+
+lemma updateReply_reply_sc_update_None_corres:
+  "corres dc (reply_at rp and pspace_aligned and pspace_distinct) \<top>
+    (set_reply_obj_ref reply_sc_update rp None)
+    (updateReply rp (replyNext_update Map.empty))"
+    apply (rule_tac Q="reply_at' rp" in corres_cross_add_guard)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:867]: Indentation off throughout this proof

File: proof/refine/ARM/IpcCancel_R.thy [hunk 9]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+  apply (rule set_reply_corres)
+  apply (clarsimp simp: reply_relation_def)
+  apply wpsimp+
+  by (clarsimp simp: obj_at'_def replyPrev_same_def)
+
+lemma updateReply_reply_sc_update_Some_corres:
+  "corres dc (reply_at rp and pspace_aligned and pspace_distinct) \<top>
+    (set_reply_obj_ref reply_sc_update rp (Some nr))
+    (updateReply rp (replyNext_update (\<lambda>_. Some (Head nr))))"
+    apply (rule_tac Q="reply_at' rp" in corres_cross_add_guard)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:881]: Indentation

File: proof/refine/ARM/IpcCancel_R.thy [hunk 10]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+  apply (rule monad_state_eqI)
+    apply (find_goal \<open>match conclusion in "_ = _" \<Rightarrow> -\<close>)
+    apply (insert no_fail_updateReply, drule_tac x=rp and y="replyPrev_update Map.empty" in meta_spec2)
+    apply (insert no_fail_updateReply, drule_tac x=rp and y="replyNext_update Map.empty" in meta_spec2)
+    apply (rule; clarsimp simp: in_monad no_fail_def snd_bind split_def)
+     apply (drule (1) use_valid[OF _ updateReply_reply_at'[where P=id, simplified], rotated], fastforce)+
+   apply (all \<open>clarsimp simp: updateReply_def getReply_def setReply_def getObject_def setObject_def
+                              obj_at'_def projectKOs updateObject_default_def loadObject_default_def
+                              split_def in_monad in_magnitude_check' objBits_simps'\<close>)
+   apply (case_tac s; fastforce simp add: fun_upd_def replyPrevNext_update_commute)+
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:914]: The `case_tac` isn't needed here

File: proof/refine/ARM/IpcCancel_R.thy [hunk 11]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+    (do y <- updateReply rp (replyNext_update Map.empty);
+         updateReply rp (replyPrev_update Map.empty)
+     od)"
+  apply (clarsimp simp: monadic_rewrite_def)
+  apply (rule monad_state_eqI)
+    apply (find_goal \<open>match conclusion in "_ = _" \<Rightarrow> -\<close>)
+    apply (insert no_fail_updateReply, drule_tac x=rp and y="replyPrev_update Map.empty" in meta_spec2)
+    apply (insert no_fail_updateReply, drule_tac x=rp and y="replyNext_update Map.empty" in meta_spec2)
+    apply (rule; clarsimp simp: in_monad no_fail_def snd_bind split_def)
+     apply (drule (1) use_valid[OF _ updateReply_reply_at'[where P=id, simplified], rotated], fastforce)+
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:910]: This line can be replaced with `apply (drule (1) use_valid[OF _ updateReply_reply_at'], fastforce)+`

File: proof/refine/ARM/IpcCancel_R.thy [hunk 12]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+lemma neq_conv :"((\<noteq>) x) = (\<lambda>c. c \<noteq> x)"
+  by (rule ext) auto
+
+lemma reply_sc_update_no_change:
+  "set_reply_obj_ref reply_sc_update rp None \<lbrace>\<lambda>s. sc_with_reply rp s = None\<rbrace>"
+  apply (wpsimp wp: update_sk_obj_ref_wp)
+  apply (drule sc_with_reply_NoneD)
+  apply (simp add: sc_with_reply_def sc_replies_sc_at_def obj_at_def)
+  apply (rule the_pred_option_None)
+   by (metis Structures_A.kernel_object.simps(45) option.simps(1))
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:927]: Indentation

File: proof/refine/ARM/IpcCancel_R.thy [hunk 13]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+        and (\<lambda>s. sc_with_reply rp s = Some scp)
+        and obj_at (\<lambda>ko. \<exists>n. ko = kernel_object.SchedContext sc n) scp
+        and reply_sc_reply_at ((=) None) rp)
+      (valid_objs' and (\<lambda>s'. replyNexts_of s' rp = Some nrp)
+        and (\<lambda>s. sym_refs (list_refs_of_replies' s)))
+      (update_sched_context scp (sc_replies_update (takeWhile ((\<noteq>) rp))))
+      (updateReply nrp (replyPrev_update Map.empty))"
+proof -
+have z: "\<And>s x. reply_at' nrp s
+               \<Longrightarrow> map_to_ctes ((ksPSpace s) (nrp \<mapsto> KOReply (replyPrev_update Map.empty x))) = map_to_ctes (ksPSpace s)"
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:969]: Reformat

File: proof/refine/ARM/IpcCancel_R.thy [hunk 14]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+   apply (rule conjI)
+    defer
+    apply (erule no_failD[OF no_fail_updateReply])
+   apply (clarsimp simp: update_sched_context_def updateReply_def getReply_def
+                         setReply_def getObject_def setObject_def in_monad split_def
+                         get_object_def set_object_def bind_assoc loadObject_default_def
+                         obj_at'_def projectKOs reply_sc_reply_at_def obj_at_def exec_gets
+                         updateObject_default_def in_magnitude_check objBits_simps' a_type_def)
+   apply (clarsimp simp: exec_get put_def)
+   apply (rename_tac reply' sc' nextr)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:1005]: Could you `rename_tac` `a` and `b` while you're here?

File: proof/refine/ARM/IpcCancel_R.thy [hunk 15]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+    apply (rename_tac bb aa ba)
+    apply (drule_tac x="(aa, ba)" in bspec, simp)
+    apply (clarsimp simp: obj_at_def is_reply)
+    apply (frule_tac ko'="kernel_object.Reply reply" and x'=nrp in obj_relation_cut_same_type)
+       apply simp+
+    apply (clarsimp simp: reply_relation_def)
+   apply (rule conjI)
+    (* sc_replies_relation *)
+    apply (clarsimp simp: projectKO_opt_sc opt_map_left_Some)
+    apply (frule (2) StateRelation.sc_replies_relation_scReply)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:1041]: The qualification here isn't needed (though maybe it's better to have it for some reason I don't know of)

File: proof/refine/ARM/IpcCancel_R.thy [hunk 16]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+   apply (clarsimp simp: caps_of_state_after_update cte_wp_at_after_update
+                         swp_def fun_upd_def obj_at_simps)
+   done
+qed
+
+end
+
+(* end : related corres rules *)
+
+(* FIXME RT: the original in Invariants_AI; do we want valid_objs or valid_tcbs? *)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:1088]: Yeah I'm not sure the `valid_tcbs/valid_tcbs'` experiment worked out... I think it's been more trouble than it's worth.

Maybe replace `clarsimp simp add:` with just `clarsimp simp:`

File: proof/refine/ARM/IpcCancel_R.thy [hunk 17]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+(* wp rules *)
+
+lemma scReply_update_empty_sc_with_reply':
+  "\<lbrace>(\<lambda>s. sc_with_reply' rp s = Some scp) and ko_at' sc' scp
+   and (\<lambda>s. sym_refs (state_refs_of' s)) and reply_at' rp
+   and (\<lambda>s. sym_refs (list_refs_of_replies' s))
+   and K (scReply sc' = Some rp)
+   and pspace_aligned' and pspace_distinct'\<rbrace>
+    setSchedContext scp (scReply_update Map.empty sc')
+             \<lbrace>\<lambda>rv s. sc_with_reply' rp s = None\<rbrace>"
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:1132]: Could you either put this on one line or align the function with the pre/postcondition? The function should be one space to the left, too

File: proof/refine/ARM/IpcCancel_R.thy [hunk 18]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+  supply heap_path.simps[simp del]
+  apply (wpsimp wp: set_sc'.setObject_wp simp: setSchedContext_def)
+  apply (simp (no_asm) add: sc_with_reply'_def)
+  apply (simp add: the_pred_option_def split: if_split_asm)
+  apply (rule notI)
+  apply (clarsimp simp add: Ex1_def)
+  apply (rename_tac p xs)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:1139]: You can get rid of this `rename_tac` and the `drule_tac` below if you'd like

File: proof/refine/ARM/IpcCancel_R.thy [hunk 19]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+               simp: update_sched_context_def)
+  apply (clarsimp dest!: sc_with_reply_SomeD1)
+  apply (prop_tac "\<exists>replies. sc_replies_sc_at (\<lambda>rs. rs = replies) scp s \<and> rp \<in> set replies")
+   apply (fastforce simp: sc_replies_sc_at_def obj_at_def)
+  apply (thin_tac "sc_replies_sc_at _ _ _")
+  apply (clarsimp simp: obj_at_def sc_replies_sc_at_def)
+  apply (clarsimp simp: sc_with_reply_def)
+  apply (prop_tac "\<not> rp \<in> set (takeWhile ((\<noteq>) rp) (sc_replies x))")
+   apply (metis (mono_tags, lifting) takeWhile_taken_P)
+  apply clarsimp
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:1169]: This line and below can be replaced by

`
  apply (simp add: the_pred_option_def Ex1_def)
  apply (drule valid_replies_sc_replies_unique)
   apply (fastforce simp: sc_replies_sc_at_def obj_at_def)+
`

File: proof/refine/ARM/IpcCancel_R.thy [hunk 20]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+  apply (clarsimp simp add: Ex1_def)
+  apply (drule_tac x=xb in spec)
+  apply clarsimp
+  apply (drule valid_replies_sc_replies_unique[where r=rp])
+   apply (rule_tac x=scp in exI)
+   apply (clarsimp simp: sc_replies_sc_at_def obj_at_def)+
+  done
+
+lemma sc_with_reply'_lift:
+  assumes x: "\<And>P. \<lbrace>\<lambda>s. P (replyPrevs_of s) (scReplies_of s)\<rbrace> f \<lbrace>\<lambda>rv s. P (replyPrevs_of s) (scReplies_of s)\<rbrace>"
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:1181]: Use invariant notation or reformat

File: proof/refine/ARM/IpcCancel_R.thy [hunk 21]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+  apply (simp add: sc_with_reply'_def the_pred_option_def)
+  apply (intro allI impI ballI)
+  apply (rename_tac x; case_tac x; simp)
+  apply (auto dest!: use_valid[OF _ x])
+  done
+
+(* maybe a more usable version of sc_replies_update_take_While_valid_replies *)
+lemma sc_replies_update_takeWhile_valid_replies':
+  "\<lbrace> valid_replies and (\<lambda>s. sc_with_reply rp s = Some scp)\<rbrace>
+  update_sched_context scp (sc_replies_update (takeWhile ((\<noteq>) rp)))
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:1194]: Indentation

File: proof/refine/ARM/IpcCancel_R.thy [hunk 22]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+  "update_sched_context ref f \<lbrace>\<lambda>s. \<not> ko_at (TCB tcb) t s\<rbrace>"
+  apply (clarsimp simp: update_sched_context_def)
+  apply (wpsimp wp: set_object_wp get_object_wp)
+  apply (clarsimp simp: obj_at_def sk_obj_at_pred_def pred_neg_def split: if_splits)
+  done
+
+lemma update_sched_context_valid_tcb[wp]:
+  "update_sched_context scp f \<lbrace>valid_tcb ptr tcb\<rbrace>"
+  apply (clarsimp simp: update_sched_context_def)
+  apply (wpsimp wp: set_object_typ_ats get_object_wp)+
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:1219]: The `+` here and in the next proof are unnecessary

File: proof/refine/ARM/IpcCancel_R.thy [hunk 23]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+lemma update_sched_context_valid_tcbs[wp]:
+  "update_sched_context ref f \<lbrace>valid_tcbs\<rbrace>"
+  unfolding valid_tcbs_def
+  apply (wpsimp wp: hoare_vcg_all_lift hoare_vcg_imp_lift')+
+  done
+
+lemma sc_replies_update_takeWhile_middle_sym_refs:
+  "\<lbrakk>hd (sc_replies sc) \<noteq> rp; rp \<in> set (sc_replies sc) \<rbrakk> \<Longrightarrow>
+  \<lbrace>\<lambda>s. P (state_refs_of s) \<and> obj_at (\<lambda>ko. \<exists>n. ko = kernel_object.SchedContext sc n) scp s\<rbrace>
+   update_sched_context scp (sc_replies_update (takeWhile ((\<noteq>) rp)))
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:1231]: Indentation

File: proof/refine/ARM/IpcCancel_R.thy [hunk 24]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
      thread_state_relation st st' \<rbrakk> \<Longrightarrow>
-   corres dc (valid_objs and pspace_aligned and pspace_distinct
+   corres dc (valid_objs and pspace_aligned and pspace_distinct and valid_replies
               and st_tcb_at ((=) st) t and (\<lambda>s. sym_refs (state_refs_of s)))
-             (valid_objs' and valid_release_queue_iff)
+             (valid_objs' and valid_release_queue_iff and (\<lambda>s'. sym_refs (list_refs_of_replies' s')))
                 (reply_remove_tcb t rp) (replyRemoveTCB t)"
-  apply (rule_tac Q="st_tcb_at' ((=) st') t and (\<lambda>s. sym_refs (state_refs_of' s))" in corres_cross_add_guard)
+  (is "\<lbrakk> _ ; _ \<rbrakk> \<Longrightarrow> corres _ ?abs_guard ?conc_guard _ _")
+  apply (rule_tac Q="st_tcb_at' ((=) st') t and (\<lambda>s. sym_refs (state_refs_of' s))"
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:1264]: You can remove the bit about `sym_refs` here (and then the use of `state_refs_of_cross`) and just do `apply add_sym_refs` if you'd like

File: proof/refine/ARM/IpcCancel_R.thy [hunk 25]
```diff
@@ -507,39 +507,1153 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+                                                             \<longrightarrow> replyNexts_of s' prp = Some rp)"
+                                   in corres_inst_add)
+                             apply (rule corres_symb_exec_r_sr)
+                                apply (rule corres_guard_imp)
+                                  apply (rule corres_split[OF _ cleanReply_reply_sc_update_corres])
+                                    apply (rule reply_unlink_tcb_corres[simplified dc_def])
+                                    apply (rule disjI2, simp)
+                                   apply wpsimp
+                                  apply wpsimp
+                                 apply (fastforce dest!: valid_objs_valid_tcbs reply_tcb_reply_at
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:1565]: You can have both these rules given to jus `dest`

**Review by michaelmcinerney — APPROVED** [review]
Woah! Now that is a proof!

I'm not that familiar with the reply stuff (though looking through a lot of this has helped a tonne), but this looks great to me.

**Comment by mktnk3** [comment]
Thanks for a close review, Michael. I’ll go through the comments and address them.
These proofs have gone through quite a few passes of changes and adjustments. I did my best to try and clean up meanderings and all that, but having another (or more) fresh set of eyes on the details is much appreciated.

File: proof/refine/ARM/IpcCancel_R.thy [hunk 26]
```diff
@@ -507,39 +507,1178 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+   apply blast
+  by simp
+
+(* another version of sc_replies_update_takeWhile_not_fst_replies_with_sc? *)
+lemma sc_replies_update_takeWhile_sc_with_reply:
+  "\<lbrace>(\<lambda>s. sc_with_reply rp s = Some scp) and valid_replies\<rbrace>
+    update_sched_context scp
+              (sc_replies_update (takeWhile ((\<noteq>) rp)))
+             \<lbrace>\<lambda>rv s.
+                 sc_with_reply rp s = None\<rbrace>"
```
Comment (corlewis) [inline proof/refine/ARM/IpcCancel_R.thy:1140]: nitpick: indentation

File: proof/refine/ARM/IpcCancel_R.thy [hunk 27]
```diff
@@ -507,39 +507,1178 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+  apply (rule_tac s=s and replies1=replies and r'1=rp and sc_ptr1=scp
+            in use_valid[OF _ sc_replies_update_take_While_valid_replies, simplified])
+   apply (clarsimp simp: sc_replies_sc_at_def obj_at_def neq_conv[symmetric] return_def
+                          update_sched_context_def in_bind get_object_def exec_gets)
+   apply (metis (no_types, lifting) sched_context.fold_congs(10))
+  apply (fastforce simp: sc_replies_sc_at_def obj_at_def)
+  done
+
+lemma update_sched_context_not_tcb_at[wp]:
+  "update_sched_context ref f \<lbrace>\<lambda>s. \<not> ko_at (TCB tcb) t s\<rbrace>"
```
Comment (corlewis) [inline proof/refine/ARM/IpcCancel_R.thy:1185]: Can this be generalised to `P (ko_at (TCB tcb) t s)`?

**Review by corlewis — APPROVED** [review]
Great job, that was a massive proof!

**Comment by mktnk3** [comment]
I seem to have messed up the commits while rebasing, and I didn't mean to include the changes for #185  here. I'll sort that out and then address the comments from Corey.

File: proof/refine/ARM/Invariants_H.thy [hunk 28]
```diff
@@ -4042,4 +4047,125 @@ lemma valid_replies'_lift:
 add_upd_simps "invs' (gsUntypedZeroRanges_update f s)"
   (obj_at'_real_def)
 declare upd_simps[simp]
+
+(* more on heap_path *)
```
[the remark this answers is not in the document]
Comment (mktnk3) [reply proof/refine/ARM/Invariants_H.thy:4051]: `takeWhile` is not yet available in `Heap_List.thy`, actually. That's why I left these here, but we could move them to somewhere else in Lib.

File: proof/refine/ARM/IpcCancel_R.thy [hunk 29]
```diff
@@ -507,39 +507,1178 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+  assumes P: "\<And>r r'. reply_relation r r' \<Longrightarrow> P r \<Longrightarrow> P' r'"
+  assumes t: "obj_at (\<lambda>ko. \<exists>r. ko = Structures_A.Reply r \<and> P r) ptr s"
+  shows "obj_at' (\<lambda>r'::reply. P' r') ptr s'"
+  using assms
+  apply (clarsimp simp: obj_at_def is_reply)
+  apply (drule (1) pspace_relation_absD, clarsimp)
+  apply (case_tac z; simp)
+  by (fastforce dest!: aligned_distinct_obj_at'I[where 'a=reply] elim: obj_at'_weakenE)
+
+lemma reply_sc_reply_at_cross:
```
[the remark this answers is not in the document]
Comment (mktnk3) [reply proof/refine/ARM/IpcCancel_R.thy:592]: Yes, we should consolidate on the projection version. I will clean this up. Some lemmas in this PR are written before you introduced `replySCs`, and I thought I've cleaned things up since, but apparently I've missed a few!

File: proof/refine/ARM/Reply_R.thy [hunk 30]
```diff
@@ -634,4 +586,426 @@ lemma replyRemoveTCB_invs':
...
+  "ko_at' reply' rp s' \<Longrightarrow>
+      replyPrevs_of (s'\<lparr>ksPSpace := ksPSpace s'(rp \<mapsto>
+                            KOReply (reply' \<lparr> replyNext := v \<rparr>))\<rparr>) = replyPrevs_of s'"
+  apply (clarsimp simp: obj_at'_def projectKOs isNext_def
+                 split: option.split_asm reply_next.split_asm)
+  by (fastforce simp: projectKO_opt_reply opt_map_def)
+
+lemma scs_of'_reply_update:
+  "reply_at' rp s' \<Longrightarrow>
+      scs_of' (s'\<lparr>ksPSpace := ksPSpace s'(rp \<mapsto> KOReply reply)\<rparr>) = scs_of' s'"
```
[the remark this answers is not in the document]
Comment (mktnk3) [reply proof/refine/ARM/Reply_R.thy:618]: It's a bit more complex than that, because we do want non-negated `obj_at'` at `rp`. But it is doable, so why not. 
I've replaced it with:
```
lemma scs_of'_non_sc_update:
  "obj_at' (λ_::'a::pspace_storable. True) rp s' ⟹ ¬ sc_at' rp s' ⟹
   koTypeOf (injectKO v) ≠ SchedContextT ⟹
      scs_of' (s'⦇ksPSpace := ksPSpace s'(rp ↦ injectKO v)⦈) = scs_of' s'"
```

File: proof/refine/ARM/IpcCancel_R.thy [hunk 31]
```diff
@@ -507,39 +507,1178 @@ locale delete_one = delete_one_conc + delete_one_abs +
...
+          apply (rename_tac ko xs; case_tac ko; clarsimp)
+         apply simp
+        apply (wpsimp simp: obj_at_def is_sc_obj_def vs_heap_simps)
+       apply (wpsimp wp: get_sched_context_no_fail)
+      apply (clarsimp simp: obj_at_def is_sc_obj_def)
+     apply simp
+    apply wpsimp+
+  done
+
+lemma updateReply_reply_sc_update_None_corres:
```
Comment (MitchellBuckley) [inline proof/refine/ARM/IpcCancel_R.thy:849]: Not sure if you've rebased already, but hopefully these can be grouped with some of my recent lemmas in Reply_R.thy. And there maybe be some overlap.

**Review by MitchellBuckley — COMMENTED** [review]
Looks good will do another review soon. Want to look into a few things.

File: lib/Corres_UL.thy [hunk 32]
```diff
@@ -951,6 +951,11 @@ qed
 (* for instantiations *)
 lemma corres_inst: "corres_underlying sr nf nf' r P P' f g \<Longrightarrow> corres_underlying sr nf nf' r P P' f g" .
 
+(* for instantiations; only need to specify what you are adding *)
+lemma corres_inst_add:
+  "corres_underlying sr nf nf' r (P and Q) (P' and Q') f g
+   \<Longrightarrow> corres_underlying sr nf nf' r (P and Q) (P' and Q') f g" .
+
```
[the remark this answers is not in the document]
Comment (mktnk3) [reply lib/Corres_UL.thy:958]: Well, what do you then think of `corres_inst` just above? I don't think you really mean what you are saying though. I think there are other lemmas in Corres_UL.thy can be implied by `corres_guard_imp'. Are you saying all these are unnecessary? And `corres_guard_imp` itself is just a simpler version of `stronger_corres_guard_imp`. Would you write your proof only using this one (please try)?

[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply lib/Corres_UL.thy:958]: I don't mind if this stays in. Under the circumstances, we have many lemmas that exist for convenience and I have introduced them myself too. Perhaps what this highlights is that the isabelle language doesn't let us manipulate schematics very well. If it did, we wouldn't need to write these lemmas for convenience.

File: proof/refine/ARM/Invariants_H.thy (hunk 28 above)
[the remark this answers is not in the document]
Comment (mktnk3) [reply proof/refine/ARM/Invariants_H.thy:4051]: > `takeWhile` is not yet available in `Heap_List.thy`, actually. That's why I left these here, but we could move them to somewhere else in Lib.

oops, this is not true. `takeWhile` is actually available there. But there was something else that didn't seem to work when I tried to move these. I might have another go...
